US07687491B2
(28a) {5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 12 (12a) using 4-isobutyl-3-methylbenzoic acid (0.12 g, 0.61 mmol) that was obtained in Example 27 (27d), 1-hydroxybenzotriazole (86 mg, 0.64 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.12 g, 0.64 mmol), 6-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxypyridine-3-carboximidamide (0.16 g, 0.58 mmol) that was obtained in Example 23 (23c), and tetrabutylammonium fluoride (a 1.0 M solution in tetrahydrofuran, 1.2 ml, 1.2 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:3 to 1:1) as the eluent to afford the title compound (0.19 g) in a yield of 99% as a white crystalline solid.

reactant | 4-isobutyl-3-methylbenzoic acid | 0.61 mmol, 0.12 g | C(C(C)C)C1=C(C=C(C(=O)O)C=C1)C | C12H16O2
reactant | 1-hydroxybenzotriazole | 0.64 mmol, 86 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.64 mmol, 0.12 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 6-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxypyridine-3-carboximidamide | 0.58 mmol, 0.16 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=N1)C(N)=NO | C13H23N3O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)CO)C | C19H21N3O2
